US07189851B2
G. 6-[3-(ethoxycarbonyl)-2-(4-fluorobenzyl)-5oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizin-4-yl]-3-pyridazinecarboxylic acid
To the ethyl 4-[6-(ethoxycarbonyl)-3-pyridazinyl]-2-(4-fluorobenzyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizine-3-carboxylate (F, 145 mg, 0.29 mmol) in 2.5 ml dioxane, 1.2 ml 1N NaOH was added and the resulting mixture was stirred overnight. Acidified with 2N HCl and extracted with ethyl acetate. The combined organic layers were washed with brine and dried over sodium sulfate. Removal of the solvent and purification of the resulting residue with flash chromatography afforded 125 mg off-white solid. 1H NMR (400 MHz, CDCl3) δ 8.38 (d, 1H), 8.17 (d, 1H), 7.20 (t, 2H), 6.95 (t, 2H), 4.79 (m, 1H), 4.42 (m, 2H), 3.98 (q, 2H), 3.62 (m, 1H), 3.39 (m, 1H), 2.45 (m, 1H), 2.32 (m, 2H), 1.41 (m, 1H), 0.92 (t, 3H) ppm. ESI-MS m/z 475 (M−H)−.

reactant | ethyl 4-[6-(ethoxycarbonyl)-3-pyridazinyl]-2-(4-fluorobenzyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizine-3-carboxylate | 0.29 mmol, 145 mg | C(C)OC(=O)C1=CC=C(N=N1)C1=C(C(=NC2=C1C(N1CCCC21)=O)CC2=CC=C(C=C2)F)C(=O)OCC | C27H25FN4O5
solvent | dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
solvent | NaOH | 1N, 1.2 ml | [OH-].[Na+]
product | 6-[3-(ethoxycarbonyl)-2-(4-fluorobenzyl)-5oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizin-4-yl]-3-pyridazinecarboxylic acid | 125 mg | C(C)OC(=O)C1=C(C2=C(C3CCCN3C2=O)N=C1CC1=CC=C(C=C1)F)C1=CC=C(N=N1)C(=O)O | C25H21FN4O5
